US20010041799A1
To a suspension of 4-nitro-L-phenylalanine methyl ester hydrochloride salt (181.84 mmol, 47.41 g), 1-[4-(methylthio)butyl]cyclopentanecarboxylic acid (177.17 mmol, 38.33 g) in DMF (470 mL) were added HBTU (177.17 mmol, 67.2 g) and diisopropylethylamine (443 mmol, 77 mL) at room temperature. The clear solution was stirred for 15 h at room temperature at which time TLC analysis of the mixture indicated the absence of starting materials. The reaction mixture was diluted with 600 mL of ethyl acetate then was washed in turn with 0.5N hydrochloric acid (2×250 mL), saturated sodium bicarbonate solution (2×250 mL) and brine (300 mL). The dried (MgSO4) organic layer was filtered and evaporated to dryness under reduced pressure. The crude product which was purified by silica gel column chromatography to afford 58.5 g (78%) of N-[[1-[4-(methylthio)butyl]cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester as an amorphous colorless solid. HRMS: Obs. mass, 423.1940. Calcd. mass, 423.1953 (M+H).

reactant | 4-nitro-L-phenylalanine methyl ester hydrochloride salt | 181.84 mmol, 47.41 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | 1-[4-(methylthio)butyl]cyclopentanecarboxylic acid | 177.17 mmol, 38.33 g | CSCCCCC1(CCCC1)C(=O)O | C11H20O2S
reactant | HBTU | 177.17 mmol, 67.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 443 mmol, 77 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 470 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | N-[[1-[4-(methylthio)butyl]cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester | 58.5 g, 78% | COC([C@@H](NC(=O)C1(CCCC1)CCCCSC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H30N2O5S
